Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / cefepime
 
Attending: ___
 
Chief Complaint:
planned admission for gemcitabine
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Dr. ___ is an ___ with acute myelogenous leukemia (s/p 10 
cycles azacytidine and 8 cycles decitabine), atrial fibrillation 
and chronic lower extremity cellulitis/ osteomyelitis from a 
shrapnel injury who is presenting for his ninth cycle of 
decitabine. He has no complaints, and denies fevers/chills.

Notably, his primary oncologist, ___, had a goals of 
care discussion with him last week regarding his continued 
thrombocytopenia which may indicate a failure of decitabine, 
though the patient feels his quality of life remains good and 
wishes to continue treatment.  He has been living in 
___ since last ___ due to failure to thrive at 
home.  He requires intermittent blood cell and platelet 
transfusions every few weeks, and it appears that goals of care 
are frequently revisited by Dr. ___.  Dr. ___ 
wishes to continue treatment.

Review of Systems:  
(+) Reports chronic loss of vision in left eye, blurry vision in 
right eye.  Chronic dyspneia on exertion (only able to walk 
about ___ yards without resting). low back pain. Decreased 
appetite.
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies diplopia, photophobia. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies chest pain or 
tightness, palpitations. Denies cough, shortness of breath, or 
wheezes. Denies nausea, vomiting, diarrhea, constipation, 
abdominal pain, melena, hematemesis, hematochezia. Denies 
dysuria, stool or urine incontinence. Denies arthralgias or 
myalgias. Denies bruising or skin changes. No numbness/tingling 
in extremities. All other systems negative.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Bladder Ca dxed ___ s/p transurethral surgery (care by 
Dr. ___ with ___ in ___.  
- AML diagnosed (care by Dr. ___ at ___ ___  

- ___ started azacytidine, s/p 10 cycles, most recent dose  
___.  
- His first cycle of decitabine at 15mg//m2 q8h x 8 doses at 
___ starting ___ was complicated by cytopenias and 
treatment delay.  
  
PAST MEDICAL HISTORY:  
- atrial fibrillation, rate controlled on toprol
- HTN  
- Chronic left lower extremity ulcer with osteomyelitis and 
cellulitis s/p shrapnel injury in ___ on doxycycline for 
suppression  
- ___ esophagus  
- Low back pain  
- Venous thromboembolism, unclear history  
- Macular degeneration, loss of vision in left eye  
- spinal stenosis
 
Social History:
___
Family History:
No family history of malignancy 
 
Physical Exam:
Admssion physical exam:
Vitals - T: 98.1 BP: 104/62  HR: 65 RR: 18 02 sat: 98/RA  
GENERAL: NAD, sleeping peacefully in bed  
HEENT: AT/NC, anicteric sclera, pale conjunctiva, MMM, poor 
dentition, nontender supple neck, no LAD, no JVD appreciated 
CARDIAC: irregularly irregular, S1/S2, III/VI systolic murmur
LUNG: good air entry, crackles in right lung base
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis or 
clubbing. 1+ pitting edema to mid calf. 
PULSES: 2+ DP pulses bilaterally  
NEURO: poor vision (nearly blind in left eye), CN II-XII intact  

SKIN: pale. large ulcerated chronic wound on left lower leg. No 
echymoses or petichiae noted 

Discharge physical exam:
unchanged
 
Pertinent Results:
Admission labs:
___ 11:30AM BLOOD ___-8.6 RBC-2.53* Hgb-7.6* Hct-22.4* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-14.6 Plt Ct-11*
___ 11:30AM BLOOD Neuts-45* Bands-0 ___ Monos-26* 
Eos-3 Baso-0 ___ Myelos-0 Blasts-8* Other-0
___ 11:30AM BLOOD ___ PTT-32.2 ___
___ 11:30AM BLOOD Glucose-89 UreaN-32* Creat-1.2 Na-142 
K-4.3 Cl-111* HCO3-26 AnGap-9
___ 11:30AM BLOOD ALT-95* AST-41* LD(LDH)-131 AlkPhos-35* 
TotBili-0.6
___ 11:30AM BLOOD Albumin-3.4* Calcium-8.5 Phos-4.4 Mg-1.7

Discharge labs:
___ 06:15AM BLOOD WBC-9.9 RBC-3.12*# Hgb-9.3*# Hct-26.9*# 
MCV-86 MCH-29.8 MCHC-34.5 RDW-14.6 Plt Ct-15*
___ 06:52AM BLOOD Neuts-41* Bands-1 ___ Monos-12* 
Eos-2 Baso-0 Atyps-2* ___ Myelos-0 Blasts-6*
___ 06:15AM BLOOD Plt Ct-15*
___ 06:52AM BLOOD Glucose-98 UreaN-29* Creat-1.2 Na-140 
K-4.5 Cl-110* HCO3-23 AnGap-12
___ 06:52AM BLOOD Calcium-8.2* Phos-4.3 Mg-2.2 UricAcd-6.___ctive issues:
#. AML:  AML diagnosed ___ s/p 10 cycles azacytidine and 8 
cycles decitabine. He received cycle 9 of decitabine during his 
admission, and tolerated chemotherapy cell. He has had chronic 
cytopenias.
 
#. Anemia: Patient has been transfusion dependent as an 
outpatient, and was found to have a hematocrit of 22.4 on 
admission. His hematocrit continued to drop and he was given 2 
units of blood with good response. Discharge hematocrit was 
26.9.  
 
#. Thrombocytopenia: Platelets ranged between 11 and 14 during 
admission. 1 unit platelet transfusion given day of discharge.

#. chronic lower extremity cellulitis/osteomyelitis: Patient has 
chronic wound of left lower extremity. Per wound note, appears 
to be worsening compared to prior admissions. Patient has 
refused surgical management repeatedly in the past, is on 
doxycycline. No signs of systemic infection were noted during 
this visit.

Chronic issues:
#. Afib: rate controlled on metoprolol. Anticoagulation not 
indicated due to thrombocytopenia.

#. ___ esophagus: stable on home omeprazole

#. Low back pain: stable on home pain regimen

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/Caregiver.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Megestrol Acetate 400 mg PO DAILY 
liquid 
3. Psyllium 1 PKT PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Paroxetine 10 mg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Cyanocobalamin 500 mcg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Doxycycline Hyclate 100 mg PO Q12H 
11. Dronabinol 2.5 mg PO BID 
12. Morphine SR (MS ___ 15 mg PO Q12H 
13. Senna ___ TAB PO BID:PRN constipation 
14. Bisacodyl 10 mg PO DAILY:PRN constipation 
15. Guaifenesin ___ mL PO Q6H:PRN cough 
16. HydrOXYzine 25 mg PO QID:PRN itch 
17. ipratropium-albuterol *NF* 0.5 mg-3 mg(2.5 mg base)/3 mL 
Inhalation Q4hr SOB 
18. Lorazepam 0.5 mg PO Q4H:PRN anxiety/nausea 
19. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Bisacodyl 10 mg PO DAILY:PRN constipation 
2. Cyanocobalamin 500 mcg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Doxycycline Hyclate 100 mg PO Q12H 
5. Dronabinol 2.5 mg PO BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Guaifenesin ___ mL PO Q6H:PRN cough 
8. HydrOXYzine 25 mg PO QID:PRN itch 
9. Lorazepam 0.5 mg PO Q4H:PRN anxiety/nausea 
10. Megestrol Acetate 400 mg PO DAILY 
liquid 
11. Metoprolol Succinate XL 100 mg PO DAILY 
12. Morphine SR (MS ___ 15 mg PO Q12H 
13. Multivitamins 1 TAB PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
16. Paroxetine 10 mg PO DAILY 
17. Senna ___ TAB PO BID:PRN constipation 
18. Psyllium Wafer 1 WAF PO DAILY 
19. ipratropium-albuterol *NF* 0.5 mg-3 mg(2.5 mg base)/3 mL 
Inhalation Q4hr SOB 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
acute myelogenous leukemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to the hospital to receive gemcitabine for 
your AML. ___ tolerated the chemotherapy well. ___ were found to 
be anemic and were given a blood transfusion with good results. 
Your platelet count was also low, and ___ were given a platelet 
transfusion. 

No changes were made to your home medications.

It was a pleasure taking care of ___ during your hospitalization 
and we wish ___ the best going forward.
 
Followup Instructions:
___